US08242116B2
N,N-Dimethyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyrazol-1-yl]-acetamide
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and 2-chloro-N,N-dimethylacetamide according to Method AC (heating to 90° C. for 4 h) and was isolated as an orange gum (quantitative). LCMS (ES+) 280 (M+H)+, RT 2.38 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | N,N-Dimethyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyrazol-1-yl]-acetamide | CN(C(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C13H22BN3O3
